US08334287B2
6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one
The title compound, off-white cristalline solid, MS: m/e=324.2, 326.1 (M+H), was prepared in accordance with the general method of example 3 from 6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-ol and methyl iodide, along with the O-alkylation product from which it was separated by flash chromatography (gradient: EtOAc to EtOAc/MeOH 95:5).

reactant | 6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-ol | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC=CC(=N1)O)C | C17H12ClN3O
reactant | methyl iodide | CI | CH3I
product | 6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC=CC(N1C)=O)C | C18H14ClN3O
